US07557114B2
b) 3-Bromo-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
A mixture of 0.87 mmol 5-Bromo-2,3-bis-bromomethyl-pyridine, 1.1 mmol tritylamine, and 2.61 mmol DIPEA in 3 ml DMF was stirred at 60° C. for 2 h. The reaction mixture was evaporated in vacuo. The residue was taken in water and extracted with ethylacetate. The combined organic phases were washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/dichloromethane) to yield the title compound as a light brown solid. MS (m/e): 243.4 (tritylion, 100%)

reactant | 5-Bromo-2,3-bis-bromomethyl-pyridine | 0.87 mmol | BrC=1C=C(C(=NC1)CBr)CBr | C7H6Br3N
reactant | tritylamine | 1.1 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
reactant | DIPEA | 2.61 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | BrC=1C=C2C(=NC1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21BrN2
